US04521598
p-Nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate
To a solution of 0.554 g. of p-nitrobenzyl 7β-(2-thienylacetamido)-3-methylsulfonyloxy-3-cephem-4-carboxylate in 10 ml. of DMF was added one molar equivalent (0.065 g.) of sodium azide and the mixture stirred at room temperature for 30 minutes. The mixture was transferred to a separatory funnel with ethyl acetate and the solution was washed three times with water, once with brine, dried over sodium sulfate and evaporated to dryness. The product, 0.523 g, obtained as a yellow froth showed a single spot on silica gel thin layer chromatography using 1:1, ethyl acetate:toluene for development and iodine for visualization.

reactant | p-nitrobenzyl 7β-(2-thienylacetamido)-3-methylsulfonyloxy-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C21H19N3O9S3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | sodium azide | 0.065 g | [N-]=[N+]=[N-].[Na+]
reactant | iodine | II | I2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16N6O6S2
